US07511057B2
2-Chloro-4-hydroxy-benzaldehyde
Diisobutylaluminium hydride (1M in hexane, 240 mL, 240 mmol) was added to a solution of 2-chloro-4-hydroxybenzonitrile (15 g, 97.7 mmol) in tetrahydrofuran (200 mL), cooled to −78° C., and the mixture was stirred at this temperature for 1 hour then at room temperature for 18 hours. The mixture was then cooled to 0° C. and 1M hydrochloric acid (80 mL) was added dropwise. The reaction mixture was diluted with water (200 mL) and filtered, washing through with ethyl acetate (×2). The layers of the filtrate were separated and the organic solution was dried over magnesium sulfate and concentrated in vacuo. Trituration of the residue with dichloromethane afforded the title compound as a solid in 84% yield, 12.92 g.

reactant | Diisobutylaluminium hydride | 240 mmol, 1M, 240 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-chloro-4-hydroxybenzonitrile | 97.7 mmol, 15 g | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | hydrochloric acid | 1M, 80 mL | Cl | ClH
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 2-Chloro-4-hydroxy-benzaldehyde | 84% yield | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
